US04567175
A mixture of 6.4 g of (+)-cis-2-(4-methoxyphenyl)-3-hydroxy-5-[2-(dimethylamino)ethyl]-8-chloro-2,3-dihydro-1,5-benzothiazepin-4(5H)-one, 65 ml of acetic anhydride and 0.7 ml of pyridine is stirred at 110° C. for 3 hours. After the reaction is completed, the reaction mixture is evaporated to remove solvent. The residue is converted to its hydrochloride and recrystallized from a mixture of acetone and ethanol. 4.7 g of (+)-cis-2-(4-methoxyphenyl)-3-acetoxy-5-[2-(dimethylamino)ethyl]-8-chloro-2,3-dihydro-1,5-benzothiazepin-4(5H)-one hydrochloride are thereby obtained.

reactant | (+)-cis-2-(4-methoxyphenyl)-3-hydroxy-5-[2-(dimethylamino)ethyl]-8-chloro-2,3-dihydro-1,5-benzothiazepin-4(5H)-one | 6.4 g | COC1=CC=C(C=C1)[C@@H]1SC2=C(N(C([C@@H]1O)=O)CCN(C)C)C=CC(=C2)Cl | C20H23ClN2O3S
reactant | acetic anhydride | 65 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | 0.7 ml | N1=CC=CC=C1 | C5H5N
product | (+)-cis-2-(4-methoxyphenyl)-3-acetoxy-5-[2-(dimethylamino)ethyl]-8-chloro-2,3-dihydro-1,5-benzothiazepin-4(5H)-one hydrochloride | 4.7 g | Cl.COC1=CC=C(C=C1)[C@@H]1SC2=C(N(C([C@@H]1OC(C)=O)=O)CCN(C)C)C=CC(=C2)Cl | InChI=1S/C22H25ClN2O4S.ClH/c1-14(26)29-20-21(15-5-8-17(28-4)9-6-15)30-19-13-16(23)7-10-18(19)25(22(20)27)12-11-24(2)3;/h5-10,13,20-21H,11-12H2,1-4H3;1H/t20-,21+;/m1./s1
